US04745116
A solution of 4-ethyl-7-methyl-6-nitro-anthranil (300 mg, 0.000146 mol.) in absolute ethanol was mixed with sodium bicarbonate (160 mg, 0.0019 mol.) and was refluxed for 4 hrs. The solution was evaporated to dryness, the residue partitioned between ethyl acetate and 5% hydrochloric acid solution. The organic layer was dried over magnesium sulphate and evaporated to give a solid. This solid was further purified by column chromatography (10% ethyl acetate: pet. ether 30-60) to give ethyl 2-amino-6-ethyl-3-methyl-4-nitro-benzoate as an oil (yield: 276 mg, 76%). IR (neat): 3500, 3400, 2980, 1700, 1620, 1580, 1530 cm-1. H-NMR (CDCl3): 1.20 (t, 3H, CH3), 1.40 (t, 3H, CH3), 2.18 (s, 3H, CH3) 2.78 (q, 3H, CH2), 4.40 (q, 2H, CH2O), 5.05 (br.s, 2H, NH2), 6.91 (s, 1H, ArH).

reactant | 4-ethyl-7-methyl-6-nitro-anthranil | 0.000146 mol, 300 mg | C(C)C=1C2=CON=C2C(=C(C1)[N+](=O)[O-])C | C10H10N2O3
reactant | sodium bicarbonate | 0.0019 mol, 160 mg | C([O-])(O)=O.[Na+]
reactant | ethanol | C(C)O | C2H6O
product | ethyl 2-amino-6-ethyl-3-methyl-4-nitro-benzoate | yield: 276 mg, 76% | NC1=C(C(=O)OCC)C(=CC(=C1C)[N+](=O)[O-])CC | C12H16N2O4
